Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],3.96593872404
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:6]([H:7])([H:8])=[C:9][O:10][H:11].[H:1][C:2]#[C:3][O:4][H:5],0.2593890741
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7],4.28584268847
[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.97172058948
[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:5]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4],1.89594533222
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],7.06639912035
[H:1][O:2][c:3]1[c:4][o:5][c:6]([H:7])[c:8]1[H:9]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8][H:9],2.7592822524900003
[O:1]=[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[O:3],-0.26777689028900004
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6])[C:8](=[O:9])[H:10].[H:7]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8](=[O:9])[H:10],-4.69548750661
[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7][H:8])=[C:10]([H:11])[H:12].[H:9]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-5.12818510397
[C:1]#[C:2][C:3](=[C:4][H:5])[O:6][O:7][H:8]>>[C:1]#[C:2].[C:3](#[C:4][H:5])[O:6][O:7][H:8],3.38745336731
[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.89011334433
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2][H:3],5.284322239090001
[H:1][C:2]([H:3])=[C:4]([C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.37833427311
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],5.05115803331
[C:1].[C:2]([O:3][H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([O:3][H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.84468244001
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14],4.75215955781
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],6.4721962385800005
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12],5.29754621055
[H:1][C:2]([H:3])([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:4],1.86064560472
[O:1]=[C:2]=[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2],3.50634712519
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.05658525033
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],-1.3594342109900002
[C:4](=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.565462019999
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][O:3][H:4],1.3020764363
[C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-4.226278195430003
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-3.31067720631
[C:5]([H:6])([H:7])[H:8].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8],-2.26375951348
